US07935688B2
(1) Synthesis of 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol
Triethylamine (5.2 mL, 37.3 mmol), 1-ethynylcyclopentanol (2 g, 18.2 mmol), cuprous iodide (0.24 g, 1.26 mmol) and tetrakis(triphenylphosphine)palladium (0) (1.44 g, 1.25 mmol) were added to a solution of trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester (Example 1-(1); 5.2 g, 12.5 mmol) in acetonitrile (52 mL) in a nitrogen atmosphere at room temperature, and the mixture was stirred at 110° C. for four hours. Ethyl acetate was added to the residue. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane only to hexane/ethyl acetate=4/1) to give the title compound (3 g, 64%).

reactant | Triethylamine | 37.3 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethynylcyclopentanol | 18.2 mmol, 2 g | C(#C)C1(CCCC1)O | C7H10O
reactant | trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester | 12.5 mmol, 5.2 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C20H23F3O4S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 52 mL | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium | 1.25 mmol, 1.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{1-ethyl-1-[4-(1-hydroxy-cyclopentylethynyl)-3-methyl-phenyl]-propyl}-2-methyl-phenol | 3 g, 64% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O)C)C1=CC(=C(C=C1)O)C | C26H32O2
